US03994939
To a stirred solution of 3.05 g. (5.7 mmole) of 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-furfurylcarbamoyl)penam, in 8 ml. of chloroform, at 0° C., is added 1.35 ml. (17 mmole) of pyridine, followed by 2.64 ml. of a 4.33 M solution of phosgene in chloroform. Stirring is then continued for 1 hour at 25° C. The chloroform, and excess phosgene and pyridine, are then removed by evaporation in vacuo, and the residue is redissolved in 5 ml. of chloroform. The solution is cooled to 0° C., and then 2.25 g. (14.4 mmole) of tetramethylguanidinium azide is added in several small portions. Stirring is continued for 15 minutes at ambient temperature, and then 20 ml. of chloroform, followed by 30 ml. of water, are added and the pH is adjusted to 6.5. The chloroform layer is separated off, washed with water, followed by brine, and then dried (MgSO4). Removal of the solvent by evaporation in vacuo leaves 3.37 g. of a dark-red foam. The foam is re-dissolved in a small volume of chloroform and absorbed onto a column of chromatographic silica gel. Elution of the column with chloroform, followed by evaporation of the appropriate fractions in vacuo, affords 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-furfuryltetrazol-5-yl)penam. The NMR spectrum of the product (CDCl3) shows absorptions at 7.40 ppm m, 16H), 6.40 ppm (m, 2H), 5.50 ppm (s, 2H), 5.20 ppm (s, 1H), 4.90 ppm (m, 2H), 1.60 ppm (s, 3H), and 0.80 ppm (s, 3H).

reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-furfurylcarbamoyl)penam | 5.7 mmole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C(NCC2=CC=CO2)=O)C1=O | C32H31N3O3S
reactant | pyridine | 17 mmole | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylguanidinium azide | 14.4 mmole | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-furfuryltetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=CO2)C1=O | C32H30N6O2S
